US06495541B1
In a manner similar to that described for 2-[4-(2-diethylamino-ethyl)-phenyl]-3,4,5,6-tetrahydro-azepino[5,4,3-cd]indol-6-one (Example YY), the tricyclic bromide (198 mg, 0.75 mmol) and 1-[2-(4-bromo-phenyl)-ethyl]-pyrrolidine were coupled to yield 2-[4-(2-pyrrolidin-1-yl-ethyl)-phenyl]-1,3,4,5-tetrahydro-azepino[5,4,3-cd]indol-6-one, 160 mg (59%) as a beige solid: m.p. 228-229° C. (dec); 1H NMR (300 MHz, d6-DMSO) δ1.69 (m, 4H), 2.51 (m, 4H), 2.67 (m, 2H), 2.81 (m, 2H), 3.05 (m, 2H), 3.39 (m, 2H), 7.20 (t, J=7.8 Hz, 1H), 7.39 (d, J=8.1 Hz, 2H), 7.56 (m, 3H), 7.68 (d, J=7.5 Hz, 1H), 8.08 (br t, 1H), 11.31 (br s, 1H). MS (FAB, MH+): 360. Anal. (C23H25N3O) C, H, N.

reactant | 2-[4-(2-diethylamino-ethyl)-phenyl]-3,4,5,6-tetrahydro-azepino[5,4,3-cd]indol-6-one | C(C)N(CCC1=CC=C(C=C1)C=1NC=2C=CC=C3C2C1CCNC3=O)CC | C23H27N3O
reactant | 1-[2-(4-bromo-phenyl)-ethyl]-pyrrolidine | BrC1=CC=C(C=C1)CCN1CCCC1 | C12H16BrN
product | 2-[4-(2-pyrrolidin-1-yl-ethyl)-phenyl]-1,3,4,5-tetrahydro-azepino[5,4,3-cd]indol-6-one | N1(CCCC1)CCC1=CC=C(C=C1)C=1NC=2C=CC=C3C2C1CCNC3=O | C23H25N3O
